US04287341
B. 2-[4-(2-Furoyl)piperazine-1-yl]-4-amino-6-chloro-7-methoxyquinazoline hydrochloride
The title compound was prepared similarly by refluxing 2,6-dichloro-4-amino-7-methoxyquinazoline and 1-(2-furoyl)piperazine in isoamyl alcohol, M.P. 229°-31° C., 79% yield.

reactant | 2,6-dichloro-4-amino-7-methoxyquinazoline | ClC1=NC2=CC(=C(C=C2C(=N1)N)Cl)OC | C9H7Cl2N3O
reactant | 1-(2-furoyl)piperazine | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 2-[4-(2-Furoyl)piperazine-1-yl]-4-amino-6-chloro-7-methoxyquinazoline hydrochloride | 79% yield | Cl.O1C(=CC=C1)C(=O)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)Cl)OC | InChI=1S/C18H18ClN5O3.ClH/c1-26-15-10-13-11(9-12(15)19)16(20)22-18(21-13)24-6-4-23(5-7-24)17(25)14-3-2-8-27-14;/h2-3,8-10H,4-7H2,1H3,(H2,20,21,22);1H
